US05731322
(±)-trans-2-Cyclopropylmethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride
0.88 g (3.08 mmol) of (±)-trans-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 0.44 g (3,23 mmol) of cyclopropylmethyl bromide, 0.64 g of potassium carbonate and a catalytical amount of potassium iodide in 15.4 ml of DMF were stirred at 60° C. for 2 h. The solvent was removed in vacuo, and the crude product was purified by flash chromatography (EtOAc/MeOH/conc. NH4OH 90:10:0.8). The solid product was dissolved in acetone and the solution brought to acidic pH with HCl/Et2O. The precipitate was filtered, yielding 0.28 g of the title compound. M.p.=78° C. dec.

reactant | (±)-trans-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 3.08 mmol, 0.88 g | Cl.COC=1C=C(C=CC1)[C@@]12CCNC[C@@H]2CCC(C1)=O
reactant | cyclopropylmethyl bromide | 3,23 mmol, 0.44 g | C1(CC1)CBr | C4H7Br
reactant | potassium carbonate | 0.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | DMF | 15.4 ml | CN(C)C=O | C3H7NO
product | (±)-trans-2-Cyclopropylmethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 0.28 g | Cl.C1(CC1)CN1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O | InChI=1S/C20H27NO2.ClH/c1-23-19-4-2-3-16(11-19)20-9-10-21(13-15-5-6-15)14-17(20)7-8-18(22)12-20;/h2-4,11,15,17H,5-10,12-14H2,1H3;1H/t17-,20+;/m0./s1
